US06852725B1
2-[1(S)-{(1,1-Dimethylethoxy)carbonylamino}-2-phenylethyl]-1-(2-oxo-butyl)-4-phenyl-1H-imidazole
To a solution of 2-[1(S)-{(1,1-dimethylethoxy)carbonylamino}-2-phenylethyl]4-phenyl-1H-imidazole (100 mg, 1 eq) in DMF (2 mL) were successively added morpholinomethyl polystyrene resin (Novabiochem, loading: 3.51 mmol/g, 159 mg, 2 eq) and 1-bromo-2-butanone (28 mL, 2 eq). After about 18 hours of stirring at about 20° C., 2 mL DMF were added to the reaction mixture followed by aminomethylpolystyrene resin (Novabiochem, loading: 1.73 mmol/g, 319 mg). The mixture was stirred overnight at 20° C. and filtered. The filtrate was concentrated under reduced pressure and then purified by a rapid filtration on a silica gel pad (Alltech silica cartridges) with ethylacetate as eluent to yield 107 mg (90% yield) of the title compound. NMR (1H, 400 MHz, CDCl3) δ: 7.80-6.98 (m, 11H, arom. H), 5.45 (d, 1H, NH), 4.80 (m, 1H, CH), 4.40 (AB, J=18 Hz, NCH2CO), 3.33 (m, 2H, CH2Ph), 2.25 (m, 2H, CH2CH3), 1.0 (t, 3H, CH3). LC/MS: calculated MW=433.5, m/z=434.2 (M+H), m/z=432.2 (M−H).

reactant | 2-[1(S)-{(1,1-dimethylethoxy)carbonylamino}-2-phenylethyl]4-phenyl-1H-imidazole | 100 mg, 1 eq | CC(C)(OC(=O)N[C@@H](CC1=CC=CC=C1)C=1NC=C(N1)C1=CC=CC=C1)C | C22H25N3O2
reactant | morpholinomethyl polystyrene | 159 mg, 2 eq | CN1CCOCC1 | C5H11NO
reactant | 1-bromo-2-butanone | 28 mL, 2 eq | BrCC(CC)=O | C4H7BrO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 2-[1(S)-{(1,1-Dimethylethoxy)carbonylamino}-2-phenylethyl]-1-(2-oxo-butyl)-4-phenyl-1H-imidazole | 107 mg, 90% yield | CC(C)(OC(=O)N[C@@H](CC1=CC=CC=C1)C=1N(C=C(N1)C1=CC=CC=C1)CC(CC)=O)C | C26H31N3O3
